US07163937B2
A solution of tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate (835 mg) in MeOH (5 mL) was charged with 10% Pd/C, Degussa (800 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 1 atm of H2 for 2 h and then filtered and concentrated to afford tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate (566 mg). MS found: (M+H)+=390.3.

reactant | tert-butyl (1R,3R,4S)-4-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate | 835 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C)=O | C25H37N3O7S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl (1R,3R,4S)-4-((S)-3-amino-2-oxopyrrolidin-1-yl)-3-(methylsulfonylmethyl)cyclohexylcarbamate | 566 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CS(=O)(=O)C)=O | C17H31N3O5S
